* Z:\mnt\spice-netlists\LT3845_TA01.asc
M§Q1 IN N005 N006 N006 Si7370DP
M§Q2 N006 N009 0 0 Si7370DP
D1 N001 N003 MBRS140
C1 N003 N006 .1µ
R1 IN N002 1Meg
R2 N011 N010 20K
C2 N010 0 2200p
D2 0 N006 MBRS1100
L1 N006 N007 15µ
R3 N007 OUT 10m
R4 N008 0 49.9K
C3 N004 0 .002µ
C4 OUT 0 33µ x3
V1 IN 0 36
D3 OUT N001 1N4148
XU1 IN N002 N004 0 N012 N011 MP_01 N008 OUT N007 0 N009 N001 N006 N005 N003 0 LT3845
R5 N012 OUT 143K
R6 0 N012 16.2K
C5 N001 0 1µ
R7 N002 0 82.5K
Rload OUT 0 1.92
C6 IN 0 47µ
C7 IN 0 2.2µ
C8 N011 0 100p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LT3845 - High Voltage Synchronous Current Mode Step-Down Controller with Adjustable Operating Frequency\nHigh Voltage Telecom Step-Down Regulator\nInput: 20V to 55V           Output: 12V @ 6.25A
* Note:\n  A smaller value Css capacitor is used to reduce simulation time. Typical value should be 1500pF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3845.sub
.backanno
.end
