* Z:\mnt\spice-netlists\LT8611_TA06.asc
R1 N008 0 60.4K
C1 N007 0 .01µ
V1 IN 0 12
C2 N001 0 1µ
L1 N004 N005 4.7µ
C3 N003 N004 .1µ
C4 OUT 0 47µ
R2 OUT N009 324K
R3 N009 0 100K
C5 OUT N009 10p
XU1 N002 N007 N008 IN IN NC_01 0 N005 N004 OUT 0 N003 N001 OUT NC_02 N009 0 LT8611
R4 N005 OUT 50m
C6 IN 0 4.7µ
V2 N006 0 3.2
C7 OUT N006 1m
.tran 5.5m startup
* LT8611 - 42V, 2.5A Synchronous Step-Down Regulator with Current Sense and 2.5µA Quiescent Current\nCCCV Li-Ion Battery Charger\nInput: 3.8V to 42V      Output: 4.1V @ 1A, Fsw=700kHz
* Note:\n  A smaller value TR/SS capacitor (C1) is used to reduce simulation time. Typical value should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* BATTERY
.lib LT8611.sub
.backanno
.end
