* Z:\mnt\spice-netlists\LT8620_TA02.asc
R1 N005 0 18.2K
C1 N003 0 .001µ
V1 IN 0 12
C2 N001 0 1µ
L1 N004 OUT 2.2µ
C3 N002 N004 0.1µ
C4 OUT 0 47µ
R2 OUT N006 1Meg
R3 N006 0 243K
C5 OUT N006 10p
C6 IN 0 4.7µ V=100
Rload OUT 0 2.5
XU1 0 N003 N005 IN IN MP_01 MP_02 MP_03 N004 MP_04 MP_05 N002 N001 OUT NC_06 N006 0 LT8620
.tran 1m startup
* LT8620 - 65V, 2A µPower Synchronous Step-Down Regulator with 2.5µA Quiescent Current\n5V 2MHz Step-Down Converter\nInput: 5.5V to 65V       Output: 5V @ 2A, Fsw = 2MHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
* (2MHz)
.lib LT8620.sub
.backanno
.end
