* Z:\mnt\spice-netlists\LT3514_TA01A.asc
L1 IN N003 10µ
C1 N001 IN 2.2µ
C2 N007 0 10p
R1 N014 0 18.2K
D1 N004 N002 MBRS140
L2 N002 OUT1 8.2µ
R2 OUT1 N005 53.6K
R3 N005 0 10k
D2 N012 N010 MBRS140
R4 OUT3 N013 12.7K
R5 N013 0 10K
D4 N008 N006 SS24
L4 N006 OUT2 4.7µ
R8 OUT2 N009 31.6K
R9 N009 0 10K
C4 IN 0 4.7µ
L5 N010 OUT3 4.2µ
C5 OUT3 N013 330p
C7 OUT2 N009 100p
C8 OUT1 N005 22p
C9 OUT1 0 22µ
C10 OUT2 0 47µ
C12 OUT3 0 22µ
Rload1 OUT1 0 5
Rload3 OUT3 0 1.8
Rload2 OUT2 0 1.65
XU1 MP_01 MP_02 N008 N006 N010 N012 N002 N004 IN 0 MP_03 N007 N007 MP_04 N007 IN N014 MP_05 N005 N013 N009 MP_06 N011 N003 N001 LT3514
V1 IN 0 12
R6 N011 OUT1 10K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 300u startup
* Notes:\n  A smaller SS capacitor is being used to reduce simulation time. Typical value should be 47nF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* LT3514 - Triple Step-Down Switching Regulator with 100% Duty Cycle Operation\n36V Triple Buck Regulator\nInput: 5.4V to 36V (40V Transient, ~2.9V UVLO)  Outputs: 5V @ 1A, 3.3V @ 2A & 1.8V @ 1A, Fsw = 1MHz
.lib LT3514.sub
.backanno
.end
