* Z:\mnt\spice-netlists\LT3757_TA05A.asc
XU1 N010 N011 N005 N008 MP_01 N007 N006 N004 N003 IN 0 LT3757
M§Q1 N001 N006 N007 N007 FDS6680A
R1 N008 0 41.2K
R2 N011 0 15.8K
R3 OUT N011 105K
L1 IN N001 2.83µ
D1 N002 OUT MBR735
C1 OUT 0 47µ
R4 N010 N009 10K
C2 N009 0 6800p
V1 IN 0 PWL(0 0 20u 12 1.4m 12 1.6m 36 1.8m 5.5)
C3 N004 0 4.7µ
C4 N005 0 .02µ
R5 N003 0 46.4K
R6 IN N003 105K
R7 N007 0 .008
C5 IN 0 4.7µ x2
C6 N002 N001 4.7µ x2
L2 0 N002 2.83µ
C7 OUT 0 10µ
Rload OUT 0 6
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
* LT3757 - Boost, Flyback, SEPIC and Inverting Controller\n5.5V to 36V Input, 12V/2A Output SEPIC Converter\nInput: 5.5V to 36V     Output: 12V at 2A, fsw = 300kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
K1 L1 L2 1
.lib LT3757.sub
.backanno
.end
