* Z:\mnt\spice-netlists\LT3757_TA08A.asc
XU1 N008 N009 P001 N005 MP_01 N006 N004 P002 N003 IN 0 LT3757
M§Q1 N001 N004 N006 N006 Si7850DP
R1 N009 0 16K
R2 OUT N009 84.5K
L1 N001 IN 3.3µ
D1 N002 0 MBRB2545CT
C1 N007 0 .01µ
V1 IN 0 12
C2 P001 0 .01µ
R3 N003 0 46.4K
R4 IN N003 105K
R5 N006 0 6m
L2 N002 OUT 3.3µ
C3 N002 N001 47µ
C4 OUT 0 100µ
C5 0 P002 4.7µ
C6 IN 0 47µ
R6 N005 0 41.2K
R7 N008 N007 9.1K
Rload OUT 0 1.25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
* LT3757 - Boost, Flyback, SEPIC and Inverting Controller\nHigh Efficiency Inverting  (CUK) Power Supply\nInput: 5V to 15V       Output: -5V @ 3A to 5A, Fsw: 300kHz
K1 L1 L2 1
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3757.sub
.backanno
.end
