* Z:\mnt\spice-netlists\LT3758_TA08A.asc
V1 IN 0 48
R1 IN N003 154K pwr=0.5
C1 P001 0 .01µ
R2 N006 0 41.2K
XU1 N008 N009 P001 N006 MP_01 N007 N005 N004 N003 IN 0 LT3758
R3 N003 0 32.4K
C2 IN 0 2.2µ x2
M§Q1 N001 N005 N007 N007 SI7454DP
R4 N007 0 12m
C3 0 N004 4.7µ
L1 IN N001 22µ
C4 N002 N001 2.2µ
D1 N002 OUT PDS5100
C5 OUT 0 47µ
R5 OUT N009 105K
R6 N009 0 15.8K
R7 OUT 0 6
L2 0 N002 22µ
R8 P002 N008 22K
C6 P002 0 .01µ
C7 OUT 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LT3758 - High Input Voltage, Boost, Flyback, SEPIC and Inverting Controller\nHigh Efficiency SEPIC Converter\nInput: 8V to 72V   Output: 12V @ 2A, Fsw: 300kHz
K L1 L2 1
.tran 2.5m startup
.lib LT3758.sub
.backanno
.end
