* Z:\mnt\spice-netlists\LT3796_TA01A.asc
XU1 OUT N008 N009 0 ISMON 0 N005 N012 N006 N006 N014 N013 MP_01 N006 _FAULT _VMODE MP_02 N007 N004 N010 MP_03 MP_04 IN N003 IN N001 IN CSOUT LT3796
V1 IN 0 12
R3 IN N001 25m
R1 IN N003 499K
R2 N003 0 97.6K
C7 ISMON 0 .1µ
C3 N012 N015 10n
R10 N013 0 26.1K
C4 N014 0 .1µ
C5 N010 0 4.7µ
R4 N007 0 15m
R7 OUT N008 620m
D2 N011 0 LXHL-BW02 N=25
R5 OUT N005 1Meg
R6 N005 0 13.7K
C2 OUT 0 2.2µ x4
L1 N001 N002 22µ
D1 N002 OUT PDS5100
R9 N015 0 4.7K
C1 IN 0 4.7µ
R12 _FAULT N010 100K
R11 _VMODE N010 100K
C6 CSOUT 0 0.1µ
R8 CSOUT 0 82.5K
M1 N002 N004 N007 N007 RJK1051DPB
M2 N011 N009 N008 N008 Si7113DN
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LT3796 - 100V Constant-Current and Constant-Voltage Controller with Dual Current Sense\nBoost LED Driver with Input Current Monitor\nInput: 9V to 60V (100V Transient)       Output: 85V LED String @ 400mA
.lib LT3796.sub
.backanno
.end
