* Z:\mnt\spice-netlists\LT3956_TA01A.asc
C1 N003 0 4.7µ
L1 IN N001 22µ
R1 N002 N007 1Meg
R2 N007 0 16.2K
D1 N001 N002 MBRS360
R3 N002 N009 .68
C2 N002 0 2.2µ
V1 IN 0 14
R4 IN N004 332K
R5 N004 0 100K
C3 N012 0 4700p
M§Q1 N013 N015 0 0 Si7850DP
D2 N009 N013 LXK2-PW14 N=18
C4 N010 0 .047µ
R6 N011 0 28.7K
V2 N014 0 PULSE(3.3 0 6m 1u 1u 125u 250u)
R7 N003 N005 100K
R8 IN N008 332K
R9 N008 0 40.2K
XU1 N006 N014 N005 N010 N011 N004 N003 IN MP_01 N001 N015 N007 N009 N002 N012 N008 0 LT3956
C5 IN 0 2.2µ x2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 8m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LT3956 - 80VIN, 80VOUT Constant-Current, Constant-Voltage Converter\n94% Efficient 25W White LED Automotive Headlamp Driver (Vin 6V to 60V, 80V Transient)
.lib LT3956.sub
.backanno
.end
