* Z:\mnt\spice-netlists\LT3976_TA01A.asc
R1 N004 0 130K
V1 IN 0 12
L1 N005 OUT 3.3µ
C3 N003 N005 .47µ
C4 OUT 0 47µ x2
R2 OUT N006 1Meg
R3 N006 0 576K
C5 OUT N006 10p
Rload OUT 0 0.66
D1 0 N005 B540C
XU1 N006 N002 OUT N003 N005 MP_01 MP_02 MP_03 MP_04 IN MP_05 MP_06 IN N004 N001 MP_07 0 LT3976
C2 N007 0 470p
R4 N005 N007 2
C6 IN 0 10µ
C1 0 N002 0.005µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
* LT3976 - 40V, 5A, 2MHz Step-Down Switching Regulator with 3.3µA Quiescent Current\n3.3V Step-Down Converter\nInput: 4.3V to 42V       Output: 3.3V @ 5A
* Note:\n  A smaller value SS capacitor is used to reduce simulation time. Typical value should be 10nF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3976.sub
.backanno
.end
