* Z:\mnt\spice-netlists\LT8302_TA09A.asc
V1 IN 0 -42
R1 N001 N003 121K
D1 N001 0 MBRS360
C1 0 OUT 47µ
Rload 0 OUT 6.67
C2 N004 IN 1µ
R3 N005 IN 10k
XU1 N002 N004 OUT IN N001 N003 N005 NC_01 LT8302
L1 N001 OUT 12µ
R4 0 N002 806K
R5 N002 IN 232K
C3 IN 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 8m startup
* LT8302 - 42Vin µPower No-Opto Isolated Flyback Converter with 65V/3.6A Switch\nUsed as a Negative to Negative Buck Converter\nInput: -18V to -42V       Output: -12V @ 1.8A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT8302.sub
.backanno
.end
