* Z:\mnt\spice-netlists\LT8315_TA01A.asc
V1 IN 0 250
C1 0 N013 470p
L1 IN N011 4m
L2 0 N006 160µ
C2 OUT 0 220µ
D1 N006 OUT RB058L150
R1 N014 0 330m
XU1 N011 MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 N009 N004 N005 N010 N007 N013 N015 0 0 N004 N014 LT8315
R2 N015 0 121K
C3 N002 N003 47p
R3 N003 N005 20K
D2 N002 N001 RB558VYM150
R4 N001 N004 600
R5 N007 N010 61.9K
R6 N002 N007 95.3K
R7 N007 0 5.11K
D3 N011 N008 RFN1L6S
L3 0 N002 640µ
C4 N009 0 10µ
C5 N004 0 10µ
D4 IN N008 RB168VYM150
R8 N013 N012 100K
C6 N012 0 22n
Rload OUT 0 300
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 L3 1
.tran 350m startup
* 5:1:2
* LT8315 - 560Vin µPower No-Opto Isolated Flyback Converter with 630V/0.3A Switch\nµPower No-Opto Isolated Flyback Converter\nInput: 20V to 450V       Output: 12V @ 220mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LT8315.sub
.backanno
.end
